US08802665B2
Methyl 4-(1-((2S,4R)-4-(2-chlorophenylsulfonyl)-2-(1-cyanocyclopropylcarbamoyl)pyrrolidine-1-carbonyl)cyclopropyl)piperazine-1-carboxylate
To a solution of (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide (35.4 mg, 70 μmol) in methylenehloride (0.7 mL) was added under stirring ethyldiisopropyl amine (18.3 μL, 105 μmol) and methyl chloroformate (6.15 μL, 77.0 μmol). The reaction was stirred at room temperature over night. The reaction was purified by column chromatography on silica gel using a gradient from methylenechloride to a mixture of methylenechloride/methanol (v:v 19:1) as solvent to yield the title compound as a white solid (32 mg, 80%). MS ISP (m/e): 564.3/566.1 (100/40) [(M+H)]+.

reactant | (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 70 μmol, 35.4 mg | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCNCC1)C(=O)NC1(CC1)C#N | C23H28ClN5O4S
reactant | methyl chloroformate | 77.0 μmol, 6.15 μL | ClC(=O)OC | C2H3ClO2
product | Methyl 4-(1-((2S,4R)-4-(2-chlorophenylsulfonyl)-2-(1-cyanocyclopropylcarbamoyl)pyrrolidine-1-carbonyl)cyclopropyl)piperazine-1-carboxylate | 32 mg, 80% | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCN(CC1)C(=O)OC)C(NC1(CC1)C#N)=O | C25H30ClN5O6S
